US04005131
The following materials were charged to the autoclave: a solution of 0.19 g. lithium iodide (1.41 mmoles), 2.34 g. triethylamine (23.0 mmoles), 6.96 g. triethylammonium sulfate (23.0 mmoles), 50 ml n-butanol (0.546 mole), and 61.7 g. of a mixture of 70.6 weight percent cyclohexanone di-n-butyl ketal (0.191 mole), 8.4 weight percent cyclohexanone, and 19.6 weight percent n-butanol (0.163 mole). The charged solids were 0.25 g. palladium (II) iodide (0.69 mmole) and 3.70 g. anhydrous copper (II) sulfate (23.0 mmoles). The reaction temperature was 100° C. The initial pressure at reaction temperature was 1500 psi. 100 psi oxygen was charged followed by 200 psi CO. An exotherm and pressure drop were noted. The oxygen/CO cycle was repeated seven more times. A total of 1870 psi pressure drop was observed during a reaction time of approximately 4.1 hours. The total pressure varied between 1500 and 2190 psi. According to gas-liquid chromatographic analysis, cyclohexanone and n-butanol were present while all of the ketal was consumed. Di-n-butyl oxalate (27.3 g.; 98 percent; 0.132 mole) was isolated by distillation and identified by spectroscopic analysis. Di-n-butyl carbonate was detected in the distillate.

reactant | triethylamine | 23.0 mmoles | C(C)N(CC)CC | C6H15N
reactant | triethylammonium sulfate | 23.0 mmoles | S(=O)(=O)([O-])[O-].C(C)[NH+](CC)CC.C(C)[NH+](CC)CC
reactant | cyclohexanone di-n-butyl ketal | 0.191 mole | C(CCC)OC1(CCCCC1)OCCCC | C14H28O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | oxygen | O=O | O2
catalyst | palladium (II) iodide | 0.69 mmole | [Pd](I)I
catalyst | copper (II) sulfate | 23.0 mmoles | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | lithium iodide | 1.41 mmoles | [I-].[Li+]
solvent | n-butanol | C(CCC)O | C4H10O
solvent | n-butanol | 0.163 mole | C(CCC)O | C4H10O
solvent | n-butanol | 0.546 mole, 50 ml | C(CCC)O | C4H10O
product | Di-n-butyl oxalate | 0.132 mole, 27.3 g, 98 percent | C(C(=O)OCCCC)(=O)OCCCC | C10H18O4
